US04808736
A solution of 9.78 g (80 mmol) of (2R)-2-methyl-3-chloropropane-1,2-diol in 100 ml of tetrahydrofuran was reacted with 4.3 g (180 mmol) of sodium hydride at room temperature by the portionwise addition while stirring for 1 hour. To the suspension obtained there was added dropwise, while stirring at room temperature, a solution of 88 mmol of 2,5-dimethoxy-3,4,6-trimethylbenzyl lithium (obtained by reacting 17.2 g (88 mmol) of 2,5-dimethoxy-1,3,4,6-tetramethylbenzene in 20 ml of n-pentane with 88 mmol of tert.butyl lithium at room temperature) and the mixture was subsequently stirred at room temperature for an additional 16 hours. The mixture was then treated with 50 ml of water while stirring, the volatile constituents were removed by distillation in a vacuum (~15 mbar) and the separated material was removed by filtration and washed with water. The filter residue was recrystallized from ether/hexane and there were obtained 23 g of (2S)-2-methyl-4-(2,5 -dimethoxy-3,4,6-trimethylphenyl)-1,2-butanediol in the form of white crystals with a melting point of 83°-85° C. and [α]D20 =+2.86° (c=1.5% in CHCl3).

reactant | (2R)-2-methyl-3-chloropropane-1,2-diol | 80 mmol, 9.78 g | C[C@@](CO)(CCl)O | C4H9ClO2
reactant | sodium hydride | 180 mmol, 4.3 g | [H-].[Na+]
reactant | 2,5-dimethoxy-3,4,6-trimethylbenzyl lithium | 88 mmol, 20 ml, 17.2 g | COC1=C(C[Li])C(=C(C(=C1C)C)OC)C
reactant | 2,5-dimethoxy-1,3,4,6-tetramethylbenzene | 88 mmol | COC1=C(C(=C(C(=C1C)C)OC)C)C | C12H18O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (2S)-2-methyl-4-(2,5 -dimethoxy-3,4,6-trimethylphenyl)-1,2-butanediol | 23 g | C[C@@](CO)(CCC1=C(C(=C(C(=C1C)OC)C)C)OC)O | C16H26O4
